US04364956
Concentrated ammonia solution (40 ml) was added to a stirred suspension of ethyl 4-oxo-5-phenyl-4H-pyran-2-carboxylate (4.8 g) in ethanol (40 ml) at 10°-15° C. The mixture was then stirred for 30 minutes at 10°-15° C. Then the solid product was recrystallised from dimethylformamide-ethanol to give 4-oxo-5-phenyl-4H-pyran-2-carboxamide (mp 245°-248° with decomposition).

reactant | ammonia | 40 ml | N | H3N
reactant | ethyl 4-oxo-5-phenyl-4H-pyran-2-carboxylate | 4.8 g | O=C1C=C(OC=C1C1=CC=CC=C1)C(=O)OCC | C14H12O4
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 4-oxo-5-phenyl-4H-pyran-2-carboxamide | O=C1C=C(OC=C1C1=CC=CC=C1)C(=O)N | C12H9NO3
